US07449475B2
Methyl 4-(acetylamino)-3-hydroxybenzoate
A solution of methyl 3-hydroxy-4-nitrobenzoate (0.78 g, 3.96 mmol) in THF (40 ml) with Pd on charcoal (10%, 0.15 g) was stirred in the atmosphere of hydrogen at atmospheric pressure overnight. The mixture was filtered through celite. The solvent was removed in vacuo. The residue was taken into water (20 ml), and acetic anhydride (0.5 ml, 5.29 mmol) was added. The mixture was vigorously stirred at 65° C. for 30 min. After cooling to room temperature, the precipitate was collected by filtration, washed with water, and dried. White powder (0.64 g, 77%).

reactant | methyl 3-hydroxy-4-nitrobenzoate | 3.96 mmol, 0.78 g | OC=1C=C(C(=O)OC)C=CC1[N+](=O)[O-] | C8H7NO5
reactant | hydrogen | [H][H] | H2
reactant | water | 20 ml | O | H2O
reactant | acetic anhydride | 5.29 mmol, 0.5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | THF | 40 ml | C1CCOC1 | C4H8O
catalyst | Pd on charcoal | 0.15 g | [Pd] | Pd
product | Methyl 4-(acetylamino)-3-hydroxybenzoate | C(C)(=O)NC1=C(C=C(C(=O)OC)C=C1)O | C10H11NO4
